US05229510
(a) 4-(3,3-Diethyl-4-oxo-2-(R,S)-azetidinyl)oxynitrobenzene
A solution of 4-nitrophenol (2.37 gm, 17.0 mmol) in 2.5N sodium hydroxide (6.82 mL) was added to a solution of 2-acetoxy-3,3-diethyl-4-oxoazetidine (1.05 gm, 5.7 mmol) in acetone (5 mL). After stirring at room temperature for 2.5 hours, ethyl acetate (100 mL) was added and the solution successively washed with water (3×20 mL) and saturated salt solution (20 mL). The solution was dried over anhydrous sodium sulfate and the solvent removed by rotoevaporated. The product was purified by flash column chromatography on silica gel eluted with 25% ethyl acetate in hexanes and isolated as a beige solid (1.20 gm, 80% yield): 1H-NMR δ (CDCl3) 0.94 (6H, t, J=7 Hz), 1.62-1.92 (4H, m), 5.38 (1H, s), 6.90 (2H, d, J=9 Hz), 7.66 (1H, s), 8.10 (2H, d, J= 9 Hz).

reactant | 4-nitrophenol | 17.0 mmol, 2.37 gm | [N+](=O)([O-])C1=CC=C(C=C1)O | C6H5NO3
reactant | 2-acetoxy-3,3-diethyl-4-oxoazetidine | 5.7 mmol, 1.05 gm | C(C)(=O)OC1NC(C1(CC)CC)=O | C9H15NO3
reactant | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
solvent | sodium hydroxide | 2.5N, 6.82 mL | [OH-].[Na+]
solvent | acetone | 5 mL | CC(=O)C | C3H6O
product | 4-(3,3-Diethyl-4-oxo-2-(R,S)-azetidinyl)oxynitrobenzene | 1.20 gm, 80% yield | C(C)C1(C(NC1=O)OC1=CC=C(C=C1)[N+](=O)[O-])CC | C13H16N2O4
